Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][C:2]([H:3])[C@:4]1([H:5])[C:6]([H:7])([H:8])[O:9][C@@:10]1([H:11])[C:12]([H:13])([H:14])[H:15],0.0570255489901999
[H:1][C:2]([H:3])[H:4].[O:5][C@:6]([H:7])([O:8][C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])([O:8][C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],-3.60458563659
[C:1]#[C:2][O:3][C:4]([H:5])[H:6].[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[C:1]#[C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-3.6571185478400015
[H:1][C:2][C:3]#[C:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[O:12][H:13].[H:4]>>[H:1][C:2]=[C:3]([H:4])[C:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[O:12][H:13],-1.76142645027
[H:1][C:2]([H:3])([H:4])[O:5][C:6]=[C:7]([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][C:2]([H:3])[H:4].[O:5]=[C:6]=[C:7]([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-0.1357056822099999
[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])[C:10]([H:11])([H:12])[H:13]>>[C:5]([H:6])([H:7])=[C:8]([H:9])[C:10]([H:11])([H:12])[H:13].[H:1][C:2]([H:3])=[O:4],-1.86743894
[H:1][O:2][C@:3]([H:4])([O:5][C:6]#[C:7][H:8])[C:10]([H:11])([H:12])[H:13].[H:9]>>[H:1][O:2][C@@:3]([H:4])([O:5][C:6]=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-2.38986406187
[C:3][C:4]([H:5])([H:6])[O:7][H:8].[O:1]=[C:2]=[C:9]([H:10])[H:11]>>[O:1]=[C:2]([C:3][C:4]([H:5])([H:6])[O:7][H:8])[C:9]([H:10])[H:11],-1.57567667647
[H:1][O:2][C:3]([H:4])([H:5])[O:6]/[C:7]([H:8])=[C:9](\[H:10])[C:11]([H:12])([H:13])[H:14]>>[C:3]([H:4])([H:5])[O:6]/[C:7]([H:8])=[C:9](\[H:10])[C:11]([H:12])([H:13])[H:14].[H:1][O:2],5.52088833949
[O:1]=[C:2][C:5]([H:6])([H:7])[C:8]#[C:9][H:10].[O:3][H:4]>>[O:1]=[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[C:8]#[C:9][H:10],-6.11852889766
[C:10][H:11].[O:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]>>[O:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]#[C:10][H:11],-10.859635685399999
[C:11]([H:12])[H:13].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])[O:9][H:10]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C@:7]([H:8])([O:9][H:10])[C:11]([H:12])[H:13],-4.96496123294
[H:1][O:2]/[C:3]([H:4])=[C:5](/[C:6]([H:7])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:5]([H:7])[C:12]([H:13])([H:14])[H:15].[H:1][O:2]/[C:3]([H:4])=[C:6]/[C:8]([H:9])([H:10])[H:11],5.93450985521
[H:1][C:2][C:3]([C:4]([H:5])[H:6])=[C:7]([O:8][H:9])[O:10][H:11]>>[C:3](=[C:4]([H:5])[H:6])=[C:7]([O:8][H:9])[O:10][H:11].[H:1][C:2],4.10385428023
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])[C:10]#[C:11][H:12]>>[H:1][C:2]#[C:3][C:5]([H:6])([H:7])[C:8]([H:9])[C:10]#[C:11][H:12].[H:4],1.8578437134
[H:1][C:2]#[C:3][O:4][C:5](=[O:6])[C:8]([H:9])([H:10])[H:11].[H:7]>>[H:1][C:2]#[C:3][O:4][C:5]([O:6][H:7])[C:8]([H:9])([H:10])[H:11],-0.97010162788
[H:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])([O:8][C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1][C:2]([H:3])([H:4])[O:5][C:6]([O:8][C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16].[H:7],4.17247786395
[C:1][C:2]([H:3])([H:4])[O:5][C:6][O:7][C:8]([H:9])[H:10]>>[C:1].[C:2]([H:3])([H:4])[O:5][C:6][O:7][C:8]([H:9])[H:10],3.9265379412
[O:1]=[C:2]=[C:3]([H:4])/[C:5]=[C:6](/[H:7])[O:8][H:9]>>[O:1]=[C:2]1[C:3]([H:4])/[C:5]1=[C:6](\[H:7])[O:8][H:9],-0.0985295896006999
[C:13]([H:14])[H:15].[H:1][O:2][C:3]([H:4])([H:5])[C@:6]([H:7])([O:8][H:9])[C:10]([H:11])[H:12]>>[H:1][O:2][C:3]([H:4])([H:5])[C@:6]([H:7])([O:8][H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15],-5.25194662827
[H:1][C:2][O:3][C:4]([C:5]#[C:7][H:8])[C:9]([H:10])([H:11])[H:12].[H:6]>>[H:1][C:2][O:3]/[C:4](=[C:5](/[H:6])[C:7][H:8])[C:9]([H:10])([H:11])[H:12],-1.43707878899
[C:1].[C:2]#[C:3][C:4][O:5][H:6]>>[C:1]#[C:2][C:3]#[C:4][O:5][H:6],-6.649829476719999
[C:1]#[C:2][C:3]([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])[H:11]>>[C:1]#[C:2][C:3]([H:4])[O:5][C:6]([H:7])([H:8])[C:9][H:10].[H:11],5.23617157906
[H:1][C:2]([H:3])([H:4])[C:5]([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([C:12]([H:13])([H:14])[H:15])[C:16]([H:17])([H:18])[H:19]>>[H:11].[H:1][C:2]([H:3])([H:4])[C:5]([C:6]([H:7])([H:8])[H:9])=[C:10]([C:12]([H:13])([H:14])[H:15])[C:16]([H:17])([H:18])[H:19],1.95565769935
[H:14].[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[C:15]([H:16])([H:17])[H:18]>>[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18],-4.31270673029
[H:1][C:2]=[C:7]([H:8])[H:9].[H:3][C:4]([H:5])=[C:6][C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1][C:2]([H:3])=[C:4]([H:5])[C:6](=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-5.00617955744
[H:1][O:2]/[C:3]=[C:4](\[C:5]([H:6])([H:7])[H:8])[C:10](=[O:9])[H:11]>>[H:1][O:2][C:3][C@:4]1([C:5]([H:6])([H:7])[H:8])[O:9][C:10]1[H:11],2.4994671127
